US08080675B2
3-(4Hydroxyphenyl)-4-(4-methoxyphenyl)2H-chromen-7-ol
7(tert-Butyldimethylsilyloxy)-3-(4-(tert-butyldimethylsilyloxy)phenyl)-4-(4-methoxyphenyl)chroman-4-ol (42 g), pTsOH (435 g), boiling chips and 2.5 L of ethanol were combined in a 2-neck 5 L round bottom flask with condenser attached. The reaction was heated at reflux for 3 hours. The solvent was concentrated in vacuo to ˜100 ml before being poured into chilled, stirred water (700 ml). The mixture was then extracted with ethyl acetate, the combined organic layers washed with water (3×2 L), brine (1×500 ml), dried over anhydrous magnesium sulphate and filtered and solvent removed in vacuo to give red/brown oil. The oil was dissolved in methanol (˜100 ml) and put in freezer overnight.

reactant | 7(tert-Butyldimethylsilyloxy)-3-(4-(tert-butyldimethylsilyloxy)phenyl)-4-(4-methoxyphenyl)chroman-4-ol | 42 g | [Si](C)(C)(C(C)(C)C)OC1=CC=C2C(C(COC2=C1)C1=CC=C(C=C1)O[Si](C)(C)C(C)(C)C)(O)C1=CC=C(C=C1)OC | C34H48O5Si2
reactant | pTsOH | 435 g | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
reactant | ethanol | 2.5 L | C(C)O | C2H6O
solvent | methanol | ˜100 ml | CO | CH4O
product | 3-(4Hydroxyphenyl)-4-(4-methoxyphenyl)2H-chromen-7-ol | OC1=CC=C(C=C1)C=1COC2=CC(=CC=C2C1C1=CC=C(C=C1)OC)O | C22H18O4
